US06949579B2
N-[6-(furan-3-yl)-1H-indazol-3-yl]butanamide
1.95 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 120 mg of N-[6-(furan-3-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 5 cm3 of tetrahydrofuran. The reaction medium is heated at about 66° C. for 17 hours. The heating is then stopped and 50 cm3 of ethyl acetate are added. This mixture is washed with 50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with ethyl acetate/cyclohexane (30/70 by volume) and collecting 15 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 10 cm3 of diisopropyl ether. This solution is filtered through a sinter funnel to give, after drying (90 Pa; 50° C.), 35 mg of N-[6-(furan-3-yl)-1H-indazol-3-yl]butanamide in the form of a white solid melting at 195° C.

reactant | tetrabutylammonium fluoride | 1.95 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(furan-3-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 120 mg | O1C=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C21H29N3O3Si
reactant | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | N-[6-(furan-3-yl)-1H-indazol-3-yl]butanamide | O1C=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C15H15N3O2
